US09034880B2
Preparation of 3-(8-chloro-5-(2-(6-(trifluoromethyl)pyridin-3-yl)ethyl)-3,4-dihydro-1H-pyrido[4,3-b]indol-2(5H)-yl)cyclopentanol (Compound 351)
3-(8-chloro-3,4-dihydro-1H-pyrido[4,3-b]indol-2(5H)-yl)cyclopentanol (300 mg, 1.03 mmol), 2-trifluoromethyl-5-vinylpyridine (140 mg, 0.809 mmol) and potassium hydroxide (310 mg, 5.5 mmol) in 0.6 ml of NMP was heated to 60 deg C. for 2 h. The reaction mass was cooled at RT and diluted with 20 ml of ethyl acetate. The organic layer was washed with brine and dried over sodium sulphate and concentrated under vacuum. It was purified on 230-400 silica gel (flash) deactivated with triethylamine using ethyl acetate/methanol (5-10%) as eluant, followed by isolation of 3-(8-chloro-5-(2-(6-(trifluoromethyl)pyridin-3-yl)ethyl)-3,4-dihydro-1H-pyrido[4,3-b]indol-2(5H)-yl)cyclopentanol by PREP HPLC. Yield: 70 mg as TFA salt.

reactant | 3-(8-chloro-3,4-dihydro-1H-pyrido[4,3-b]indol-2(5H)-yl)cyclopentanol | 1.03 mmol, 300 mg | ClC1=CC=2C3=C(NC2C=C1)CCN(C3)C3CC(CC3)O | C16H19ClN2O
reactant | 2-trifluoromethyl-5-vinylpyridine | 0.809 mmol, 140 mg | FC(C1=NC=C(C=C1)C=C)(F)F | C8H6F3N
reactant | potassium hydroxide | 5.5 mmol, 310 mg | [OH-].[K+]
solvent | NMP | 0.6 ml | CN1CCCC1=O | C5H9NO
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 3-(8-chloro-5-(2-(6-(trifluoromethyl)pyridin-3-yl)ethyl)-3,4-dihydro-1H-pyrido[4,3-b]indol-2(5H)-yl)cyclopentanol | ClC1=CC=2C3=C(N(C2C=C1)CCC=1C=NC(=CC1)C(F)(F)F)CCN(C3)C3CC(CC3)O | C24H25ClF3N3O
